US03988458
Upon boiling a solution of 15.1 g 3-nitrobenzaldehyde and 26.0 g amidinoacetic acid ethyl ester in 250 ml ethanol for 2 hours, 2,6-diamino-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester of m.p. 175°-176° C (ethanol) is obtained.

reactant | 3-nitrobenzaldehyde | 15.1 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | amidinoacetic acid ethyl ester | 26.0 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2,6-diamino-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | Yield: 63% | C(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)N)N | C17H20N4O6
